US06268391B1
A solution of 5-cyano-3-methylthiooxindole (6.0 g, 29 mmol) in THF (100 mL) was stirred at room temperature and a saturated aqueous solution of NH4Cl (100 mL) added followed by activated zinc (25 g, 0.38 mol). The resulting mixture was stirred for 18 hours. The mixture was filtered through a pad of diatomaceous earth and the pad washed with THF (20 mL). The organic phase was separated, dried over anhydrous MgSO4 and the solvent evaporated to leave a tan solid. Trituration of this solid with diethyl ether gave 5-cyanooxindole a white solid, (4.1 g, 88%). 1H NMR (DMSO-d6) δ7.63 (d, 1H, J=8.4 Hz), 7.62 (s, 1H), 6.93 (d, 1H, J=8.4 Hz), 3.55 (s, 2H). MS (−ve ES) 157 (100), (M−H)

reactant | 5-cyano-3-methylthiooxindole | 29 mmol, 6.0 g | C(#N)C=1C=C2C(C(NC2=CC1)=S)C | C10H8N2S
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.38 mol, 25 g | [Zn] | Zn
product | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
